US09326987B2
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbonitrile
To a suspension of 6-bromo-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbonitrile in 1,4-dioxane (100 ml) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (4.79 g, 10.72 mmol, available from Frontier Scientific Europe), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (2.061 g, 2.82 mmol) and potassium phosphate tribasic (8.97 g, 42.3 mmol). Water (20 ml) was added and the reaction mixture heated to 80° C. for 1 h. The solvent was removed and the residue partitioned between water (50 ml) and ethyl acetate (100 ml). The layers were filtered and the filtrate partitioned and concentrated, then purified by column chromatography, on a silica cartridge (300 g), eluting with a gradient of cyclohexane and ethyl acetate to give the title compound as a pale yellow solid (2.5 g).

reactant | 6-bromo-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbonitrile | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C#N | C15H10BrN3O2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 10.72 mmol, 4.79 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | potassium phosphate tribasic | 42.3 mmol, 8.97 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Water | 20 ml | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 2.82 mmol, 2.061 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole-4-carbonitrile | 2.5 g | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C#N | C23H16N4O2S
